US07227035B2
Synthesis of 2,3-Dihydro-benzofuran-6-sulfonic acid (2-benzoyl-4-chloro-phenyl)-amide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using 115 mg of (2-amino-5-chloro-phenyl)-phenyl-methanone and 109 mg of 2,3-dihydro-benzofuran-6-sulfonyl chloride. 1H-NMR (400 MHz, CDCl3): δ 2.80 (t, 2H, J=8.8 Hz), 4.42 (t, 2H, J=9.2 Hz), 6.57 (d, 1H, J=8.4 Hz), 7.35 (m, 3H), 7.43 (m, 3H), 7.48 (dd, 1H, J=8.4 Hz, 2.4 Hz), 7.6 (m, 1H), 7.74 (d, 1H, J=8.8 Hz), 9.48 (s, 1H). MS: m/z 414.9 (M++1).

reactant | (2-amino-5-chloro-phenyl)-phenyl-methanone | 115 mg | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=CC=C1 | C13H10ClNO
reactant | 2,3-dihydro-benzofuran-6-sulfonyl chloride | 109 mg | O1CCC2=C1C=C(C=C2)S(=O)(=O)Cl | C8H7ClO3S
product | 2,3-Dihydro-benzofuran-6-sulfonic acid (2-benzoyl-4-chloro-phenyl)-amide | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)NS(=O)(=O)C1=CC2=C(CCO2)C=C1 | C21H16ClNO4S
